US09403807B2
Step A: N-(1-(3-(4-chlorophenyl)-6-fluorohexan-3-yl)-1H-indol-4-yl)methanesulfonamide
To a solution of N-(1-(3-(4-chlorophenyl)-6-hydroxyhexan-3-yl)-1H-indol-4-yl)methanesulfonamide (21 mg, 0.05 mmol), as described in Example 45 Step A, in dichloromethane (2 mL) was added DAST (16 mg, 0.1 mmol) at −78° C. The mixture was gradually warmed to room temperature and stirred for 3 h, then quenched with methanol (0.5 mL). The crude product was purified by PREP-TLC eluting with PE/EA (2/1, v/v) to obtain the title compound as colorless oil. LC/MS m/z=444.7[M+Na]+.

reactant | N-(1-(3-(4-chlorophenyl)-6-hydroxyhexan-3-yl)-1H-indol-4-yl)methanesulfonamide | 0.05 mmol, 21 mg | ClC1=CC=C(C=C1)C(CC)(CCCO)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C21H25ClN2O3S
reactant | DAST | 0.1 mmol, 16 mg | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(1-(3-(4-chlorophenyl)-6-fluorohexan-3-yl)-1H-indol-4-yl)methanesulfonamide | ClC1=CC=C(C=C1)C(CC)(CCCF)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C21H24ClFN2O2S
